US05723464
A solution of sodium periodate (21 g, 0.10 moles) in water (150 ml) was added slowly to a solution of (R)-4-methyl-3-pyridin-2-yl-[1,2,3]oxathiazolidine-2-oxide (15.4 g, 0.78 moles) and ruthenium(III)chloride (20 mg) in acetonitrile (1540 ml) whilst the temperature was kept below 5° C. A heavy precipitate developed. The mixture was poured into a mixture of ethyl acetate (500 ml) and water (500 ml) and then shaken. The organic phase was retained and the aqueous phase was extracted with further ethyl acetate (2×500 ml). The organic phases were combined, backwashed with water (500 ml), dried (MgSO4) and then evaporated in vacuo to give (R)-4-methyl-3-(2-pyridyl)-[1,2,3]oxathiazolidine-2,2-dioxide (15.5 g) as a yellow oil which solidified on standing.

reactant | sodium periodate | 0.10 moles, 21 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | (R)-4-methyl-3-pyridin-2-yl-[1,2,3]oxathiazolidine-2-oxide | 0.78 moles, 15.4 g | CC1N([S@@](OC1)=O)C1=NC=CC=C1 | C8H10N2O2S
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
solvent | acetonitrile | 1540 ml | C(C)#N | C2H3N
catalyst | ruthenium(III)chloride | 20 mg | [Ru](Cl)(Cl)Cl
solvent | water | 500 ml | O | H2O
product | (R)-4-methyl-3-(2-pyridyl)-[1,2,3]oxathiazolidine-2,2-dioxide | 15.5 g | C[C@H]1N(S(OC1)(=O)=O)C1=NC=CC=C1 | C8H10N2O3S
